US07273865B2
To a stirred solution of 455 mg (2.25 mmol) 2-bromo-isonicotinic acid in 8 ml THF were added 914 mg (2.40 mmol) HATU and 0.50 ml (4.51 mmol) N-methylmorpholine and stirring continued at 50° C. for 16 h. 200 mg (0.75 mmol) 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine was then added and stirring continued at 60° C. for 4 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (methanol/dichloromethane) afforded 208 mg (62%) 2-bromo-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide as a yellow crystalline solid. ES-MS m/e (%): 452 (M{81Br}+H+, 95), 450 (M{79Br}+H+, 100).

reactant | 2-bromo-isonicotinic acid | 2.25 mmol, 455 mg | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | HATU | 2.40 mmol, 914 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 4.51 mmol, 0.50 ml | CN1CCOCC1 | C5H11NO
reactant | 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine | 0.75 mmol, 200 mg | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)N | C11H14N4O2S
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 2-bromo-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide | 208 mg, 62% | BrC=1C=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=CN1 | C17H16BrN5O3S
